US04634768
A 29.4 g (0.10 mole) quantity of methyl 3-methylflavone-8-carboxylate was added to 200 ml of a solution of 0.5N--KOH in methanol. The mixture was refluxed with heating for 3 hours and the solvent was removed by distillation. To the residue was added 300 ml of water to dissolve the residue in water and the solution was subjected to filtration. The filtrate was neutralized with dilute hydrochloric acid to give 27.3 g (97.5%) of 3-methylflavone-8-carboxylic acid, M.P. 229° to 231.5° C.

reactant | methyl 3-methylflavone-8-carboxylate | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)OC)C1=CC=CC=C1 | C18H14O4
reactant | KOH | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 3-methylflavone-8-carboxylic acid | 27.3 g, 97.5% | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)O)C1=CC=CC=C1 | C17H12O4
